US06235789B1
1-(2-Cyanoethyl)-6-methoxyindan
To a solution of 1-(2-bromoethyl)-6-methoxyindan (1.75 g, 6.86 mmol) in dimethyl sulfoxide (80 ml) was added sodium cyanide (0.35 g, 7.20 mmol). This mixture was stirred for 40 minutes at 60° C. To the reaction mixture was added water, which was subjected to extraction with ethyl acetate. The extract solution was washed with brine and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (hexane/ethyl acetate, 85:15) to give 1.28 g (yield 93%) of the above-titled compound as an oily-product.

reactant | 1-(2-bromoethyl)-6-methoxyindan | 6.86 mmol, 1.75 g | BrCCC1CCC2=CC=C(C=C12)OC | C12H15BrO
reactant | sodium cyanide | 7.20 mmol, 0.35 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 1-(2-Cyanoethyl)-6-methoxyindan | 1.28 g, yield 93% | C(#N)CCC1CCC2=CC=C(C=C12)OC | C13H15NO
